data/oMe_Silver.jsonl
{"reaction_id": "NR-147_1-C(C)(C)C_2-C_3-C(F)(F)F_4-CC_5-C(C)(C)C","name": "Morita-Baylis-Hillman Reaction","level": "medium","reactants_smiles": ["C(C(C)(C)C)(C)=CC(=O)(CC)","O=C([H])C(C)(C)C"],"products_smiles": ["C(=O)(CC)C(C(C(C)(C)C)O)=C(C(C)(C)C)(C)"],"conditions": "N1CCN2CCC1CC2","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC)(=CC(C(C)(C)C)(C)[N+]12CCN(CC1)CC2)[O-]","rationale": "The tertiary amine nucleophile attacks the β-position of the activated alkene due to strong electron withdrawal by the adjacent carbonyl, forming a stabilized zwitterionic enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)(C)C)(C(C(C)(C(F)(F)F)[N+]12CCN(CC1)CC2)C(C(C)(C)C)[O-])=O","rationale": "The enolate carbon, being nucleophilic and resonance-stabilized, attacks the electrophilic carbonyl carbon of the aldehyde, favored by the aldehyde’s high reactivity and minimal steric hindrance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(=C(/C(C)(C(F)(F)F)[N+]12CCN(CC1)CC2)C(C(C)(C)C)O)[O-]","rationale": "Proton transfer occurs to neutralize the alkoxide and generate a hydroxyl group, driven by the stability of the resulting alcohol and facilitated by the basic amine environment."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(CC)C(C(C(C)(C)C)O)=C(C(C)(C)C)(C)","rationale": "Elimination of the amine regenerates the catalyst and forms the conjugated alkene, favored by restoration of the carbonyl conjugation and relief of the zwitterionic intermediate’s charge separation."}],"description": "In the Morita–Baylis–Hillman reaction, the tertiary amine catalyst activates the electron-deficient alkene via nucleophilic addition, forming a zwitterionic enolate. This enolate then attacks the aldehyde, followed by proton transfer and elimination of the amine to yield the allylic alcohol product under mild conditions."}
{"reaction_id": "NR-334_1-C_2-C(C)C_3-C_4-C(c1ccccc1)c1ccccc1","level": "medium","name": "Ritter Reaction","reactants_smiles": ["N#CC","OC(C(C)C)(C)C(c1ccccc1)c1ccccc1"],"products_smiles": ["C(=O)(NC(C(C)C)(C)C(c1ccccc1)c1ccccc1)C"],"conditions": "H2SO4, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(C(C)C)(C)C(c1ccccc1)c1ccccc1","step_weight": 0,"rationale": "Protonation of the alcohol oxygen increases its leaving group ability by converting OH into water, a much better leaving group under acidic conditions."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](C(C)C)(C)C(c1ccccc1)c1ccccc1","step_weight": 0,"rationale": "Loss of water generates a carbocation stabilized by adjacent alkyl groups through hyperconjugation and inductive effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(#[N+]C(C(C)C)(C)C(c1ccccc1)c1ccccc1)C","step_weight": 0,"rationale": "The nitrile nitrogen, being nucleophilic, attacks the carbocation, forming a nitrilium ion stabilized by resonance with the triple bond."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=NC(C(C)C)(C)C(c1ccccc1)c1ccccc1)([OH2+])C","step_weight": 0,"rationale": "Water, activated by the acidic medium, adds to the electrophilic carbon of the nitrilium ion, forming a protonated imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=NC(C(C)C)(C)C(c1ccccc1)c1ccccc1)(O)C","step_weight": 0,"rationale": "Deprotonation of the protonated imidate oxygen restores neutrality, yielding the neutral imidic acid form."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC(C(C)C)(C)C(c1ccccc1)c1ccccc1)C","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the imidic acid to the more thermodynamically stable amide via proton transfers."}],"description": "Under strong acid, the alcohol is protonated and loses water to form a stable carbocation. The nitrile attacks, forming an iminium intermediate, which is then hydrated and tautomerizes to the amide. Acid catalysis drives each step by stabilizing intermediates and activating electrophiles."}
